US06426417B1
N-[[5-[2-[2-[(2,2-Dimethyl-1-oxopropyl)amino]-1,4-dihydro-4-oxopyrido-[2,3-d]-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic Acid, Diethyl Ester
Dichloromethane (350 mL) was added to the 2:3 mixture of R-L and S-L diastereomers of N-[[5-[2-[2-[(2,2-dimethyl-1-oxopropyl)amino)-3,4,5,6,7,8-hexahydro-4-oxopyrido-(2,3-d)-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic acid, diethyl ester (17.0 g, 28.9 mmole) from Preparation 9 and stirred 30 minutes until a light yellow solution formed. As a solid, 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (13.4 g, 59.2 mmol) was added. The solution initially turned purple, then with 30 minutes stirring at room temperature it transitioned to a light pink mixture. A pink solid was removed by filtration, washing three times with dichloromethane (25 mL). The filtrate was stirred three times for 30 minutes with a saturated solution of sodium bicarbonate (200 mL) and separated. The final organic layer was stirred for 30 minutes with sodium bicarbonate (100 mL) and water (100 mL) then separated. The organic layer was washed with brine (100 mL) and dried over magnesium sulfate. Removal of the solvent at reduced pressure gave 14.7 g (87.1%) of the title compound. mp 57° C.-87° C. IR(CHCl3): 3690-3025, 2978, 3000, 1736, 1677, 1629, 1558, 1449, 1245, 1147, 1022, 811 cm−1. MS(HR) calculated for C28H35N5O7S: 586.234100. Found: 586.233546.

reactant | N-[[5-[2-[2-[(2,2-dimethyl-1-oxopropyl)amino)-3,4,5,6,7,8-hexahydro-4-oxopyrido-(2,3-d)-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic acid, diethyl ester | 28.9 mmole, 17.0 g | CC(C(=O)NC=1NC(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)=O)(C)C | C28H39N5O7S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 59.2 mmol, 13.4 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | Dichloromethane | 350 mL | ClCCl | CH2Cl2
product | N-[[5-[2-[2-[(2,2-Dimethyl-1-oxopropyl)amino]-1,4-dihydro-4-oxopyrido-[2,3-d]-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic Acid, Diethyl Ester | 14.7 g, 87.1% | CC(C(=O)NC1=NC(C2=C(N1)N=CC(=C2)CCC2=CC=C(S2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)=O)(C)C | C28H35N5O7S
